US09102614B2
Preparation of ethyl 2-(4-bromo-3-methyl-1-(trifluoromethyl-sulfonyloxy) naphthalen-2-yl)-2-oxoacetate:
A solution of ethyl 2-(4-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-hydroxyacetate (crude, 1.22 g, ˜2.60 mmol) in DCM (60 mL) was treated with Dess-Martin periodinane (1.32 g, 3.12 mmol) at 23° C. After 30 min, 10% Na2S2O3 (30 mL) was added at 23° C. The system was diluted with H2O (20 mL) and extracted with DCM (3×30 mL). Combined organic layers were dried (Na2SO4), filtered, and concentrated. The residue was treated with benzene, filtered, and wet-loaded onto a silica gel column and purified by flash chromatography (ethyl acetate/hexanes) giving the desired product (1.18 g, 98% yield over 2 steps from ethyl 2-(4-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-tert-butoxyacetate). 1H NMR (400 MHz, CDCl3) δ 8.43 (d, J=8.6 Hz, 1H), 8.13 (d, J=8.2 Hz, 1H), 7.77 (dd, J=8.6, 8.2 Hz, 1H), 7.71 (dd, J=8.6, 8.6 Hz, 1H), 4.42 (q, J=7.0 Hz, 2H), 2.57 (s, 3H), 1.39 (t, J=7.0 Hz, 3H). 19F NMR (377 MHz, CDCl3) δ−73.3 (s).

reactant | ethyl 2-(4-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-hydroxyacetate | ˜2.60 mmol, 1.22 g | BrC1=C(C(=C(C2=CC=CC=C12)OS(=O)(=O)C(F)(F)F)C(C(=O)OCC)O)C | C16H14BrF3O6S
reactant | Dess-Martin periodinane | 3.12 mmol, 1.32 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Na2S2O3 | 30 mL | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 20 mL | O | H2O
product | ethyl 2-(4-bromo-3-methyl-1-(trifluoromethyl-sulfonyloxy) naphthalen-2-yl)-2-oxoacetate | 1.18 g, 98% yield | BrC1=C(C(=C(C2=CC=CC=C12)OS(=O)(=O)C(F)(F)F)C(C(=O)OCC)=O)C | C16H12BrF3O6S
